US07105530B2
To a solution of 10 g (0.06 mol) of 2-ethyl-5-nitroaniline (prepared by nitration of 2-ethylaniline: Bergman and Sand, Tetrahedron 1990, 46, 6085–6112) in 300 ml of glacial acetic acid, at room temperature, was added a solution of 8.98 ml (0.06 mol) of tert-butyl nitrite in 40 ml of acetic acid dropwise over 15 min. After the addition was complete the solution was allowed to stir for 30 min. The acetic acid was removed in vacuo to afford an orange solid. The solid was dissolved in approximately 120 ml of ethyl acetate and washed with 3×100 ml sat. aqueous NaHCO3. The organic layer was dried over MgSO4 and the solvent was removed in vocuo to afford 3-methyl-6-nitroindazole as a yellow solid (10.4 g, 98%).

reactant | 2-ethyl-5-nitroaniline | 0.06 mol, 10 g | C(C)C1=C(N)C=C(C=C1)[N+](=O)[O-] | C8H10N2O2
reactant | tert-butyl nitrite | 0.06 mol, 8.98 ml | N(=O)OC(C)(C)C | C4H9NO2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | approximately 120 ml | C(C)(=O)OCC | C4H8O2
product | 3-methyl-6-nitroindazole | 10.4 g, 98% | CC1=NNC2=CC(=CC=C12)[N+](=O)[O-] | C8H7N3O2
